US08895745B2
Step 2: 1-(2-Amino-ethyl)-3-{3-[7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-urea
Trifluoroacetic acid (1 ml) was added to a stirred solution of [2-(3-{3-[7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-ureido)-ethyl]-carbamic acid tert-butyl ester (85 mg, 0.17 mmol) in CH2Cl2 (2 ml) at 0° C. After 1 h the volatiles were removed in vacuo and the residue was purified by preparative HPLC to give the title compound (10 mg, solid).

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | [2-(3-{3-[7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-ureido)-ethyl]-carbamic acid tert-butyl ester | 0.17 mmol, 85 mg | C(C)(C)(C)OC(NCCNC(=O)NC1=CC(=CC=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)F)=O | C27H28FN5O3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Amino-ethyl)-3-{3-[7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-urea | 10 mg | NCCNC(=O)NC1=CC(=CC=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)F | C22H20FN5O
